US06492348B1
(3aS,4S,6R,6aR)-6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid N′-(2,2-dimethyl-propionyl)-hydrazide
(3aS,4S,6R,6aR)-6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid (2.5 g) suspended in 1,2-dimethoxymethane (100 ml) was treated with 2,2-dimethyl-propionic acid hydrazide (1.1 g) and 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline (EEDQ), and the mixture heated under reflux for 16 h. The mixture was poured into aqueous citric acid (250 ml) and extracted with ethyl acetate; the organic layers were washed with citric acid and brine, dried (MgSO4) and evaporated in vacuo to give the crude product. Purification by flash chromatography on silica gel (Biotage cartridge), eluting with ethyl acetate:cyclohexane 65:35, gave the title compound as a white solid (1.92 g).

reactant | (3aS,4S,6R,6aR)-6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid | 2.5 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O | C13H13ClN4O5
reactant | 2,2-dimethyl-propionic acid hydrazide | 1.1 g | CC(C(=O)NN)(C)C | C5H12N2O
reactant | 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
solvent | citric acid | 250 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (3aS,4S,6R,6aR)-6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid N′-(2,2-dimethyl-propionyl)-hydrazide | 1.92 g | CC(C(=O)NNC(=O)[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Cl)(C)C | C18H23ClN6O5
